US04600709
3.88 g (0.0069 mol) of 5-chloro-6-(4-chlorophenylsulphonyl)-1,3-benzodioxole-2-carboxylic acid ethyl ester are dissolved in 20 ml of dimethylformamide and are added to 0.71 g (0.012 mol) of guanidine at room temperature. The mixture is stirred for 2 hours at room temperature, then poured out onto 200 ml of water. After stirring for 1/2 hour, a crystalline suspension has formed. This is filtered, washed with water, and the crude product is dried in a vacuum drying chamber at 30°-40°. The crude product is then digested with 25 ml of ethyl acetate, partial dissolution and recrystallisation occurring. The whole is cooled for 1/2 hour in an ice-bath, filtered and dried, yielding, in the form of beige crystals, 5-chloro-6-(4-chlorophenylsulphonyl)-1,3-benzodioxole-2-carboxylic acid guanidide having a melting point of from 215° (decomposition).

reactant | 5-chloro-6-(4-chlorophenylsulphonyl)-1,3-benzodioxole-2-carboxylic acid ethyl ester | 0.0069 mol, 3.88 g | C(C)OC(=O)C1OC2=C(O1)C=C(C(=C2)Cl)S(=O)(=O)C2=CC=C(C=C2)Cl | C16H12Cl2O6S
reactant | guanidine | 0.012 mol, 0.71 g | NC(=N)N | CH5N3
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-chloro-6-(4-chlorophenylsulphonyl)-1,3-benzodioxole-2-carboxylic acid | ClC1=CC2=C(OC(O2)C(=O)O)C=C1S(=O)(=O)C1=CC=C(C=C1)Cl | C14H8Cl2O6S
